US07498337B2
4-methyl-5-phenyl-1-(pyridin-2-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
By a reaction under similar conditions as in Reference Example 65 and using 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg), sodium hydride (60% in oil, 60 mg), 15-crown-5 (0.30 mL) and 2-pyridinesulfonyl chloride (231 mg) instead of 3-pyridinesulfonyl chloride hydrochloride, the title compound was obtained as an amorphous form (yield 262 g, 80%).

reactant | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.30 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2-pyridinesulfonyl chloride | 231 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | 4-methyl-5-phenyl-1-(pyridin-2-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1)C=O | C17H14N2O3S
